US07842701B2
3,7-diamino-2-(2-chloro-5-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 3-amino-2-(2-chloro-5-methoxyphenyl)-7-nitro-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (0.50 g), 90% calcium chloride (0.40 g), reduced iron (1.0 g) and 90% ethanol (30 ml) was heated under reflux for 3 hours, and 90% calcium chloride (0.10 g) and reduced iron (0.27 g) was added thereto. The reaction mixture was heated under reflux for additional 8 hours. The reaction mixture was cooled and the insoluble materials were filtered off through Celite, and the filtrate was extracted with ethyl acetate. The extract was washed with a 5% sodium hydrogen carbonate and brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residual solid was washed with diisopropyl ether, and dried to obtain the target compound (0.30 g).

reactant | 3-amino-2-(2-chloro-5-methoxyphenyl)-7-nitro-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.50 g | NC=1N(N=C2C1C(NC=1C=C(C=CC21)[N+](=O)[O-])=O)C2=C(C=CC(=C2)OC)Cl | C17H12ClN5O4
reactant | calcium chloride | 0.40 g | [Cl-].[Ca+2].[Cl-]
reactant | calcium chloride | 0.10 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,7-diamino-2-(2-chloro-5-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.30 g | NC=1N(N=C2C1C(NC=1C=C(C=CC21)N)=O)C2=C(C=CC(=C2)OC)Cl | C17H14ClN5O2
